US06448397B1
To a mixture of 7-(2-chloroethoxy)-1-phenyl-1,2-dihydro[1,4]oxazino[2,3,4-jk]carbazole (0.453 g, 1.24 mmol) in dry DMF (6 mL) is added tert-butyl-1-piperazinecarboxylate (0.232 g, 1.24 mmol), sodium iodide (0.018 g, 0.124 mmol), and potassium carbonate (0.342 g, 2.48 mmol). The mixture is heated at 85° C. for 20 h. The mixture is then cooled and partitioned between Et2O and water. The organic layer is washed twice with water (200 mL), dried over anhydrous sodium sulfate and concentrated. Column chromatography (50 mL silica) using CH2Cl2/CH3OH (98/2) yielded 0.487 g (76%) of tert-butyl 4-{2-[(1-phenyl-1,2-dihydro[1,4]oxazino[2,3,4-jk]carbazol-7-yl)oxy]ethyl}-1-piperazinecarboxylate; mp 72° C.;.

reactant | 7-(2-chloroethoxy)-1-phenyl-1,2-dihydro[1,4]oxazino[2,3,4-jk]carbazole | 1.24 mmol, 0.453 g | ClCCOC1=CC=CC=2N3C4=C(C=CC=C4C12)OCC3C3=CC=CC=C3 | C22H18ClNO2
reactant | tert-butyl-1-piperazinecarboxylate | 1.24 mmol, 0.232 g | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
reactant | sodium iodide | 0.124 mmol, 0.018 g | [I-].[Na+]
reactant | potassium carbonate | 2.48 mmol, 0.342 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
product | tert-butyl 4-{2-[(1-phenyl-1,2-dihydro[1,4]oxazino[2,3,4-jk]carbazol-7-yl)oxy]ethyl}-1-piperazinecarboxylate | 0.487 g, 76% | C1(=CC=CC=C1)C1COC=2C=CC=C3C=4C(=CC=CC4N1C23)OCCN2CCN(CC2)C(=O)OC(C)(C)C | C31H35N3O4
